US04618677
The procedure described in Example 2 was followed, using 1.3 g of n-hexyl isocyanate, 3.0 g of 3-[4-(4-chlorobenzyl)homopiperazin-1-yl]propanethiol and 75 ml of methylene chloride, to give 1.3 g (33% of theory) of N-(n-hexyl)-S-{3-[4-(4-chlorobenzyl)homopiperazin-1-yl]propyl}thiocarbamate dihydrochloride as a tan powder, M.p. 183°-187° C.

reactant | n-hexyl isocyanate | 1.3 g | C(CCCCC)N=C=O | C7H13NO
reactant | 3-[4-(4-chlorobenzyl)homopiperazin-1-yl]propanethiol | 3.0 g | ClC1=CC=C(CN2CCN(CCC2)CCCS)C=C1 | C15H23ClN2S
solvent | methylene chloride | 75 ml | C(Cl)Cl | CH2Cl2
product | N-(n-hexyl)-S-{3-[4-(4-chlorobenzyl)homopiperazin-1-yl]propyl}thiocarbamate dihydrochloride | 1.3 g, 33% | Cl.Cl.C(CCCCC)NC(O)=SCCCN1CCN(CCC1)CC1=CC=C(C=C1)Cl | InChI=1S/C22H38ClN3OS.2ClH/c1-2-3-4-5-12-24-22(27)28-18-7-15-25-13-6-14-26(17-16-25)19-20-8-10-21(23)11-9-20;;/h8-11,24,27-28H,2-7,12-19H2,1H3;2*1H
